US05859007
N-Isopropyl-2-[3-methyl-2,4-dioxo-5-phenyl-3-(5-phenyl-[1,2,4]oxadiazol-3-ylmethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl acetamide
To a stirring solution of 65 mg (0.11 mmol) of 2-[2,4-Dioxo-5-phenyl-3-(5-phenyl-[1,2,4]oxadiazol-3-ylmethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl acetamide, prepared as in Intermediate 40, in 2 mL of DMF at 0° C. is added 8 mg (0.17 mmol, 1.5 equiv) of sodium hydride (60% dispersion in mineral oil). The resulting solution is stirred 5 min, then 10 mL (0.17 mmol, 1.5 equiv) of methyl iodide is added. The reaction mixture is stirred 30 min at 0° C. then 3 h at RT and quenched with 1 mL H2O. The reaction mixture is diluted with 40 mL Et2O and washed with 40 mL H2O. The organic layer is dried (MgSO4) and the solvents removed in vacuo. Purification of the resulting oil via reverse phase MPLC using a C-18 column and 70% acetonitrile/30% H2O with 0.1% TFA as eluent followed by lyophilization afforded 35 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz) δ8.11 (m, 2H), 7.63-6.86 (m, 17H), 5.08 (m, 1H), 4.43 (m, 0.66H), 4.03 (d, br, 0.66H, J=16.3), 3.83 (d, 0.33H, J=16.9), 3.55 (d, 0.33H, J=16.9), 2.87 (dd, 2H, J=15.4, 33.0), 1.62 (s, 2H), 1.35 (s, 1H), 1.11 (m, 6H); low resolution MS (FAB)m/e 600 (MH+), 465, 223.

reactant | 2-[2,4-Dioxo-5-phenyl-3-(5-phenyl-[1,2,4]oxadiazol-3-ylmethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl acetamide | 0.11 mmol, 65 mg | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)CC2=NOC(=N2)C2=CC=CC=C2 | C35H31N5O4
reactant | sodium hydride | 0.17 mmol, 8 mg, 1.5 equiv | [H-].[Na+]
reactant | methyl iodide | 0.17 mmol, 10 mL, 1.5 equiv | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-2-[3-methyl-2,4-dioxo-5-phenyl-3-(5-phenyl-[1,2,4]oxadiazol-3-ylmethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl acetamide | 35 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)(CC1=NOC(=N1)C1=CC=CC=C1)C)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C36H33N5O4
